US04522948
A mixture of 1.0 g of 1-[2-(cyclohexylmethyl)-n-hexyl]imidazole hydrogen sulfate, ether (50 ml) and excess aqueous potassium carbonate was stirred until no solid remained. The ether layer was separated, washed with water, dried (MgSO4) and evaporated to give 1-[2-(cyclohexylmethyl)-n-hexyl]imidazole as an oil.

reactant | 1-[2-(cyclohexylmethyl)-n-hexyl]imidazole hydrogen sulfate | 1.0 g | S(=O)(=O)(O)O.C1(CCCCC1)CC(CN1C=NC=C1)CCCC
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | ether | 50 ml | CCOCC | C4H10O
product | 1-[2-(cyclohexylmethyl)-n-hexyl]imidazole | C1(CCCCC1)CC(CN1C=NC=C1)CCCC | C16H28N2
